US05602161
4-[2-[2- (2-Aminoethoxy )benzyl]tetrazol-5-yl ]phenyl pivalate Hydrochloride
Hydrogen chloride (10 ml, 4N solution in ethyl acetate) was added to 4-[2-[2-[2-(t-butoxycarbonylamino)ethoxy]benzyl]tetrazol -5-yl]phenyl pivalate (200 mg), obtained in example 34, and the solution was allowed to stand in an ice box for 15 h. After the ethyl acetate was concentrated in vacuo, the resulting crystals were filtered and dried to give 160 mg (93%) of the title compound.

reactant | 4-[2-[2-[2-(t-butoxycarbonylamino)ethoxy]benzyl]tetrazol -5-yl]phenyl pivalate | 200 mg | C(C(C)(C)C)(=O)OC1=CC=C(C=C1)C=1N=NN(N1)CC1=C(C=CC=C1)OCCNC(=O)OC(C)(C)C | C26H33N5O5
reactant | Hydrogen chloride | 4N, 10 ml | Cl | ClH
product | 4-[2-[2- (2-Aminoethoxy )benzyl]tetrazol-5-yl ]phenyl pivalate Hydrochloride | 160 mg, 93% | Cl.C(C(C)(C)C)(=O)OC1=CC=C(C=C1)C=1N=NN(N1)CC1=C(C=CC=C1)OCCN | InChI=1S/C21H25N5O3.ClH/c1-21(2,3)20(27)29-17-10-8-15(9-11-17)19-23-25-26(24-19)14-16-6-4-5-7-18(16)28-13-12-22;/h4-11H,12-14,22H2,1-3H3;1H
